US07638514B2
1.6 g of 1,3-dichloro-2-(2-chloromethyl-allyloxy)-5-(3,3-dichloro-allyloxy)-benzene and 686 mg of 4-hydroxyacetophenone are introduced into 25 ml of acetonitrile. 1.7 g of potassium carbonate and 50 mg of potassium iodide are then added and the mixture is stirred for 3 hours at 80° C. The reaction mixture is filtered and the filtrate is concentrated. After purification over silica gel, 1-(4-{2-[2,6-dichloro-4-(3,3-dichloro-allyloxy)-phenoxymethyl]-allyloxy}-phenyl)-ethanone is obtained.

reactant | 1,3-dichloro-2-(2-chloromethyl-allyloxy)-5-(3,3-dichloro-allyloxy)-benzene | 1.6 g | ClC1=C(C(=CC(=C1)OCC=C(Cl)Cl)Cl)OCC(=C)CCl | C13H11Cl5O2
reactant | 4-hydroxyacetophenone | 686 mg | CC(=O)C=1C=CC(=CC1)O | C8H8O2
reactant | potassium carbonate | 1.7 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 50 mg | [I-].[K+]
solvent | acetonitrile | 25 ml | C(C)#N | C2H3N
product | 1-(4-{2-[2,6-dichloro-4-(3,3-dichloro-allyloxy)-phenoxymethyl]-allyloxy}-phenyl)-ethanone | ClC1=C(OCC(COC2=CC=C(C=C2)C(C)=O)=C)C(=CC(=C1)OCC=C(Cl)Cl)Cl | C21H18Cl4O4
